US07135475B2
A solution of 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester (100 mg, 0.21 mmol) and 2-bromomethyl-1-fluoro-4-methoxy-benzene (56 mg, 0.25 mmol) in acetonitrile (2.0 mL) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (0.06 mL, 0.45 mmol). The reaction was stirred at 25° C. The reaction was diluted with ethyl acetate and was washed with a 1N aqueous hydrochloric acid solution and a saturated aqueous sodium chloride solution. The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 1:1 ethyl acetate/petroleum ether) afforded 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-1-(2-fluoro-5-methoxy-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester (26 mg, 20%) as a yellow solid. This material was taken on without further purification or characterization.

reactant | 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester | 0.21 mmol, 100 mg | C(C)(=O)NC1=CC=C(CC2=NC=3N(C(NC(C3N2COC(C(C)(C)C)=O)=O)=O)CCCC)C=C1 | C24H31N5O5
reactant | 2-bromomethyl-1-fluoro-4-methoxy-benzene | 0.25 mmol, 56 mg | BrCC1=C(C=CC(=C1)OC)F | C8H8BrFO
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.45 mmol, 0.06 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 2.0 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2-dimethyl-propionic acid 8-(4-acetylamino-benzyl)-3-butyl-1-(2-fluoro-5-methoxy-benzyl)-2,6-dioxo-1,2,3,6-tetrahydro-purin-7-ylmethyl ester | 26 mg, 20% | C(C)(=O)NC1=CC=C(CC2=NC=3N(C(N(C(C3N2COC(C(C)(C)C)=O)=O)CC2=C(C=CC(=C2)OC)F)=O)CCCC)C=C1 | C32H38FN5O6
